US07396844B1
Synthesis of N-[2-(3-amidinophenoxy)ethyl]-4-trifluoromethylbenzamide trifluoroacetate
194 mg (1.02 mmol) of 4-trifluoromethylbenzoic acid was dissolved in 10 ml of dichloromethane. 0.43 ml (3.06 mmol) of triethylamine, 215 mg (1.12 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 152 mg (1.12 mmol) of 1-hydroxybenzotriazole and 203 mg (1.02 mmol) of 3-(2-aminoethoxy)benzonitrile hydrochloride were added to the solution, and they were stirred for 20 hours. The reaction liquid was diluted with water. After the extraction with ethyl acetate, the organic layer was washed with water, 1 N sodium hydroxide and saturated aqueous NaCl solution successively, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was treated in the same manner as that of step 6 in Example 1 to obtain the title compound.

reactant | 4-trifluoromethylbenzoic acid | 1.02 mmol, 194 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | triethylamine | 3.06 mmol, 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.12 mmol, 215 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.12 mmol, 152 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(2-aminoethoxy)benzonitrile hydrochloride | 1.02 mmol, 203 mg | Cl.NCCOC=1C=C(C#N)C=CC1
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(3-amidinophenoxy)ethyl]-4-trifluoromethylbenzamide trifluoroacetate | FC(C(=O)O)(F)F.C(N)(=N)C=1C=C(OCCNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1 | InChI=1S/C17H16F3N3O2.C2HF3O2/c18-17(19,20)13-6-4-11(5-7-13)16(24)23-8-9-25-14-3-1-2-12(10-14)15(21)22;3-2(4,5)1(6)7/h1-7,10H,8-9H2,(H3,21,22)(H,23,24);(H,6,7)
